US05739345
5-{4-(1-Methylimidazo[4,5-c]pyridin-2-ylmethoxy)-benzyl}thiazolidine-2,4-dione (Compound No. 1-156)
A procedure similar to that described in Example 12 was repeated, except that 3.40 g of 5-{4-(1-methylimidazo[4,5-c]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 74) and 24 ml of a 3:1 by volume mixture of acetic acid and water were used, to give the title compound as a crude product. This crude product was crystallized by trituration with ethyl acetate, to give 1.01 g of the title compound, melting at 264°-265° C.

reactant | 5-{4-(1-methylimidazo[4,5-c]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 3.40 g | CN1C(=NC=2C=NC=CC21)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C37H30N4O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-{4-(1-Methylimidazo[4,5-c]pyridin-2-ylmethoxy)-benzyl}thiazolidine-2,4-dione | CN1C(=NC=2C=NC=CC21)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C18H16N4O3S
